US04988723
To a suspension of 3-acetyl-4-hydroxybenzonitrile (10.48 g) and 3-pentanone (10.3 ml) in toluene (20 ml) was added pyrrolidine (2.7 ml) at ambient temperature. The reaction mixture was stirred overnight at the same temperature and for 3.5 hours under reflux, diluted with ethyl acetate, and then washed with water, 10% aqueous hydrochloric acid, saturated sodium bicarbonate solution and brine successively. The extract was dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified with silica gel column chromatography using a mixture of methylene chloride and n-hexane (1:10→1:1) as an eluent. The fractions containing the object compound were concentrated in vacuo and the residue was triturated to give 2,2-diethyl-3,4-dihydro-4-oxo-2H-1-benzopyran-6-carbonitrile (2.51 g).

reactant | 3-acetyl-4-hydroxybenzonitrile | 10.48 g | C(C)(=O)C=1C=C(C#N)C=CC1O | C9H7NO2
reactant | 3-pentanone | 10.3 ml | CCC(CC)=O | C5H10O
reactant | pyrrolidine | 2.7 ml | N1CCCC1 | C4H9N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-diethyl-3,4-dihydro-4-oxo-2H-1-benzopyran-6-carbonitrile | 2.51 g | C(C)C1(OC2=C(C(C1)=O)C=C(C=C2)C#N)CC | C14H15NO2
